US07732604B2
Synthesis of 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carboxylic acid
To a suspension of the methyl 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carboxylate (200 mg, 0.624 mmol) in THF (40 ml) cooled to 5° C. with ice bath was added potassium trimethylsilanoate (80.1 mg, 0.62 mmol). After stirring for 20 mins at 5° C., the reaction mixture was concentrated. The resulting residue was dissolved in 7 ml of DMAC and purified via reversed phase column eluted with 5-75% 0.1% TFA H2O and 0.1% TFA ACN to afford the desired product (100 mg, 66%).

reactant | methyl 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carboxylate | 0.624 mmol, 200 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(=O)OC | C16H12N6O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carboxylic acid | 100 mg, 66% | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(=O)O | C15H10N6O2
